US07718671B2
Synthesis OF N-(4-Phenoxyphenethyl)thiourea (Compound 66)
This compound is prepared via a method analogous to the method for preparation of N-(3-benzyloxyphenyl)thiourea using 4-phenoxyphenethylamine as the starting material. 1H NMR (CDCl3, δ): 2.92 (t, J=6.9 Hz, 2H), 3.31-3.90 (m, 2H), 5.65 (s, 2H), 5.85-6.16 (m, 1H), 6.97-7.04 (m, 4H), 7.11-7.15 (m, 1H), 7.19 (d, J=7.4 Hz, 2H), 7.36 (t, J=7.8 Hz, 2H); LCMS (M+1): 273

reactant | N-(3-benzyloxyphenyl)thiourea | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(=S)N | C14H14N2OS
reactant | 4-phenoxyphenethylamine | O(C1=CC=CC=C1)C1=CC=C(CCN)C=C1 | C14H15NO
product | N-(4-Phenoxyphenethyl)thiourea | O(C1=CC=CC=C1)C1=CC=C(CCNC(=S)N)C=C1 | C15H16N2OS
